US04433152
A mixture of 4 g of 1-amidino-4-piperidinepropionic acid hydrochloride, 9.3 g of bis-(o-phenylphenyl)sulfite prepared from o-phenylphenol and thionyl chloride, 40 ml of dry dimethylformamide and 20 ml of dry pyridine was stirred at room temperature for 4 hours. The solvent was removed undeer reduced pressure, and the residue was recrystallized from water and washed with ethyl acetate and then with ether to obtain 3.45 g (yield: 52%) of o-phenylphenyl 1-amidino-4-piperidinepropionate hydrochloride as colorless needles having a melting point of 160° to 162° C.

reactant | 1-amidino-4-piperidinepropionic acid hydrochloride | 4 g | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)O
reactant | bis-(o-phenylphenyl)sulfite | 9.3 g | C1(=CC=CC=C1)C1=C(C=CC=C1)OS(=O)OC1=C(C=CC=C1)C1=CC=CC=C1 | C24H18O3S
reactant | o-phenylphenol | C1(=CC=CC=C1)C1=C(C=CC=C1)O | C12H10O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | ether | CCOCC | C4H10O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | o-phenylphenyl 1-amidino-4-piperidinepropionate hydrochloride | 3.45 g, yield: 52% | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)OC1=C(C=CC=C1)C1=CC=CC=C1 | InChI=1S/C21H25N3O2.ClH/c22-21(23)24-14-12-16(13-15-24)10-11-20(25)26-19-9-5-4-8-18(19)17-6-2-1-3-7-17;/h1-9,16H,10-15H2,(H3,22,23);1H
